US09029560B2
Preparation of 1-[(5-methyl-2-propyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC80)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(5-methyl-2-propylphenyl)thiourea (CA38) isolated as a white solid (0.107 g, 34%): 1H NMR (400 MHz, DMSO-d6) δ 11.99 (s, 1H), 10.09 (s, 1H), 9.42 (s, 1H), 8.14-8.05 (m, 2H), 8.05-7.95 (m, 2H), 7.61 (dd, J=8.6, 1.3 Hz, 2H), 7.49 (t, J=7.6 Hz, 1H), 7.44-7.34 (m, 2H), 7.13 (d, J=7.8 Hz, 1H), 7.07-6.97 (m, 2H), 3.46 (q, J=6.5 Hz, 2H), 2.89 (t, J=6.9 Hz, 2H), 2.48-2.39 (m, 2H), 2.26 (s, 3H), 1.54-1.42 (m, 2H), 0.84 (t, J=7.3 Hz, 3H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 583 ([M+H]+), 581 ([M−H]−).

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(5-methyl-2-propylphenyl)thiourea | CC=1C=CC(=C(C1)NC(=S)N)CCC | C11H16N2S
product | 1-[(5-methyl-2-propyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | CC=1C=CC(=C(C1)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)CCC | C29H29F3N6O2S
